US04794182
In 333 ml of methanol was dissolved 8.6 g of 2-methyl-4-amino-5-formylpyrimidine. To the solution was added gradually 10.6 g of phenyl hydrazine hydrochloride. As the reaction proceeded, crystals precipitated out. Five hours later, the crystals were collected by filtration and dried under reduced pressure to obtain 16.5 g (93%) of 1-(2-methyl-4-aminopyrimidyl)methylidene-2-phenylhydrazine hydrochloride. Physical properties of 1-(2-methyl-4-aminopyrimidyl)methylidene-2-phenylhydrazine hydrochloride are as follows:

reactant | 2-methyl-4-amino-5-formylpyrimidine | 8.6 g | CC1=NC=C(C(=N1)N)C=O | C6H7N3O
reactant | phenyl hydrazine hydrochloride | 10.6 g | Cl.C1(=CC=CC=C1)NN
solvent | methanol | 333 ml | CO | CH4O
product | 1-(2-methyl-4-aminopyrimidyl)methylidene-2-phenylhydrazine hydrochloride | 16.5 g, 93% | Cl.CC1=NC=C(C(=N1)N)C=NNC1=CC=CC=C1 | InChI=1S/C12H13N5.ClH/c1-9-14-7-10(12(13)16-9)8-15-17-11-5-3-2-4-6-11;/h2-8,17H,1H3,(H2,13,14,16);1H
